US07091357B2
To a solution of undec-10-en-1-ol (0.86 g, 5.0 mmol) in DMF (15 mL) was added triphenylphosphine (1.46 g, 5.6 mmol). The solution was cooled to 0° C. and NBS (0.96 g, 5.4 mmol) was added in portions. After stirring for 30 min at room temperature, the reaction was quenched with methanol (0.5 mL). The solution was diluted with ether (80 mL), washed with water, saturated aqueous NaHCO3 and brine successively. The organic layer was dried and concentrated. The residue was purified by flash chromatography on silica gel, eluting with hexane to afford 11-bromo-undec-1-ene (0.96 g, 82%) as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 5.79 (1H, m), 4.93 (2H, m), 3.38 (2H, t, J=6.9 Hz), 2.02 (2H, m), 1.83 (2H, m), 1.20–1.55 (12H, m); 13C NMR (75 MHz, CDCl3) δ 139.36, 114.33, 34.27, 33.99, 33.01, 29.57×2, 29.27, 29.09, 28.94, 28.35.

reactant | undec-10-en-1-ol | 5.0 mmol, 0.86 g | C(CCCCCCCCC=C)O | C11H22O
reactant | triphenylphosphine | 5.6 mmol, 1.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NBS | 5.4 mmol, 0.96 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 11-bromo-undec-1-ene | 0.96 g, 82% | BrCCCCCCCCCC=C | C11H21Br
